US08247430B2
4-(1,1-dimethyl-3-morpholin-4-ylpropyl)phenylamine
To a stirred solution of 3-methyl-3-(4-nitrophenyl)butan-1-one (509 mg, 2.4 mmol) and morpholine (0.21 mL, 2.4 mmol) in THF (30 mL) was added NaBH(OAc)3 (0.73 g, 3.4 mmol). The mixture was stirred at RT overnight and washed with HCl (1M). CH2Cl2 was added and the layers were separated. The aqueous layer was basified to pH 9 using NaOH 1M and extracted with CH2Cl2. The organic layer was dried and evaporated the nitro compound. To a solution of the nitro compound (0.50 g, 1.8 mmol) in THF (40 mL) was added AcOH (1.97 mmol, 34.5 mmol) followed by zinc (9.1 g, 137 mmol). The mixture was stirred for 1 h, filtered on Celite®, diluted with H2O and aqueous NaHCO3, and the THF layer was evaporated. The residue was extracted with EtOAc, dried and evaporated to give the title compound.

reactant | 3-methyl-3-(4-nitrophenyl)butan-1-one | 2.4 mmol, 509 mg | CC(CC=O)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO3
reactant | morpholine | 2.4 mmol, 0.21 mL | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 3.4 mmol, 0.73 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 1.97 mmol | CC(=O)O | C2H4O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | zinc | 137 mmol, 9.1 g | [Zn] | Zn
product | 4-(1,1-dimethyl-3-morpholin-4-ylpropyl)phenylamine | CC(CCN1CCOCC1)(C)C1=CC=C(C=C1)N | C15H24N2O
